US03957774
Example 6 - Preparation of N-(morpholinomethyl carbamyl) cysteamine ##EQU20##
1 mol of N-carbamyl cysteamine, 1 mol of formol in an aqueous 30 % solution, 1 mol of morpholine and 10cc of distilled water are mixed while stirring. The reaction is exothermic (52°C). After cooling to about 30°C, 10cc of water is added and the mixture heated to 60°C until the reactants are completely dissolved. The mixture is then evaporated and redissolved by heating it in ethanol. This mixture is then again evaporated until dry and after washing with 50cc of ether and vacuum drying on P2O5, the result is a yellow colored paste (hygroscopic)-

reactant | N-carbamyl cysteamine | 1 mol | C(N)(=O)NCCS | C3H8N2OS
reactant | formol | 1 mol | C=O | CH2O
reactant | morpholine | 1 mol | N1CCOCC1 | C4H9NO
solvent | water | 10cc | O | H2O
solvent | water | 10cc | O | H2O
product | N-(morpholinomethyl carbamyl) cysteamine | O1CCN(CC1)CNC(=O)NCCS | C8H17N3O2S
